US08563723B2
4-(1,3-Dioxo-1,3-dihydro-isoindol-2-ylmethyl)-benzenesulfonyl chloride
Under N2 atmosphere, 11.26 mL chlorosulfonic acid was cooled in an ice bath, and under stirring 10.00 g n-benzylphthalimide was added portionwise over a period of 20 min. The ice bath was removed and the mixture was heated to 60° C. for 30 min. After cooling to room temperature, the mixture was cautiously poured into ice water and extracted twice with chloroform. The combined organic layers were dried over MgSO4 and concentrated to a small volume. The product was obtained by trituration of the concentrate with PA to give 10.44 g (73%) of a white powder. 1H NMR (400 MHz, CDCl3) δ 4.95 (s, 2H), 7.67 (d, J=8.43 Hz, 2H), 7.73-7.78 (m, 2H), 7.85-7.90 (m, 2H), 8.00 (d, J=8.43 Hz, 2H).

reactant | chlorosulfonic acid | 11.26 mL | ClS(=O)(=O)O | ClHO3S
reactant | n-benzylphthalimide | 10.00 g | C1=CC=C(C=C1)CN2C(=O)C3=CC=CC=C3C2=O | C15H11NO2
product | 4-(1,3-Dioxo-1,3-dihydro-isoindol-2-ylmethyl)-benzenesulfonyl chloride | 10.44 g, 73% | O=C1N(C(C2=CC=CC=C12)=O)CC1=CC=C(C=C1)S(=O)(=O)Cl | C15H10ClNO4S
